US08133907B2
(3-Ethoxycarbonyl-pyridin-2-ylmethyl)-trimethyl-phosphonium Bromide
A stirred mixture of N-bromosuccinimide (5.6 g, 31 mmol), 2-Methyl-nicotinic acid ethyl ester (4.1 g, 24 mmol), AIBN (0.05 g, 0.3 mmol) in 50 mL of carbon tetrachloride at 50° C. is irradiated with a 250 Watt heat lamp for 45 minutes. The reaction was cooled to room temperature and is poured into saturated sodium bicarbonate. The products are extracted into dichloromethane and the combined organic layers are dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a residue which is immediately dissolved in 100 mL of toluene. To the solution is added triphenyl phosphine (8.1 g, 31 mmol) and the reaction is heated at reflux for 2 hours. The heat source is removed and filtration gives the title compound.

reactant | N-bromosuccinimide | 31 mmol, 5.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-Methyl-nicotinic acid ethyl ester | 24 mmol, 4.1 g | C(C)OC(C1=C(N=CC=C1)C)=O | C9H11NO2
reactant | AIBN | 0.3 mmol, 0.05 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | triphenyl phosphine | 31 mmol, 8.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Ethoxycarbonyl-pyridin-2-ylmethyl)-trimethyl-phosphonium Bromide | [Br-].C(C)OC(=O)C=1C(=NC=CC1)C[P+](C)(C)C | InChI=1S/C12H19NO2P.BrH/c1-5-15-12(14)10-7-6-8-13-11(10)9-16(2,3)4;/h6-8H,5,9H2,1-4H3;1H/q+1;/p-1
